US03951999
3-(4-chlorophenyl)-5-methyl-1,2-benzisoxazole
4'-Chloro-2-hydroxy-4-methylbenzophenone-oxime (0.2g) and anhydrous sodium carbonate (0.2g) were heated together under reflux in triglyome (5ml) for 30 minutes. On cooling, the mixture was poured into water (50ml.) and filtered. On standing a solid separated from the filtrate and was filtered, washed, dried and examined by NMR. The NMR spectrum was consistent with the preparation of the title compound (~30%). T.L.C. also confirmed the presence of the benzisoxazole.

reactant | 4'-Chloro-2-hydroxy-4-methylbenzophenone-oxime | 0.2g | ClC1=CC=C(C=C1)C(C1=C(C=C(C=C1)C)O)=NO | C14H12ClNO2
reactant | sodium carbonate | 0.2g | C([O-])([O-])=O.[Na+].[Na+]
reactant | benzisoxazole | O1N=CC2=C1C=CC=C2 | C7H5NO
solvent | water | 50ml | O | H2O
product | 3-(4-chlorophenyl)-5-methyl-1,2-benzisoxazole | ClC1=CC=C(C=C1)C1=NOC2=C1C=C(C=C2)C | C14H10ClNO
